US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {3-[(2,3-dihydroxy-propyl)-methyl-carbamoyl]-1-methyl-1H-pyrazol-4-yl}-amide
According to the general method described in step 5 of example 27, reaction of 3-methylamino-propane-1,2-diol with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (9%) as sticky yellow solid.

reactant | 3-methylamino-propane-1,2-diol | CNCC(CO)O | C4H11NO2
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid {3-[(2,3-dihydroxy-propyl)-methyl-carbamoyl]-1-methyl-1H-pyrazol-4-yl}-amide | 9% | OC(CN(C(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C)C)CO | C22H26N8O4
